US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethoxy)benzamide (CJS 3695)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-(trifluoromethoxy)benzoyl chloride to afford the title compound as an off-white solid (36 mg, 64%). 1H-NMR (δ, ppm, DMSO-d6): 6.50 (d, 1H, HPy,5, J=6.0 Hz), 6.93 (d, 1H, Harom, J=7.0 Hz), 7.44 (ps t, 1H, Harom, J=8.0 Hz), 7.62 (s, 1H, Harom), 7.64-7.69 (m, 3H, Harom), 7.81 (d, 1H, HPy,6, J=6.0 Hz), 7.88 (s, 1H, Harom), 7.99 (d, 1H, Harom, J=8.0 Hz), 10.47 (s, 1H, NHamide), 11.20 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). 13C-NMR (δ, ppm, DMSO-d6): 106.61, 110.86, 113.78, 114.72, 116.36, 120.05, 121.07, 124.17, 126.80, 130.23, 130.64, 136.83, 140.47, 141.35, 144.55, 147.17, 148.28, 154.21, 154.76, 164.03. HRMS (EI): m/z [M+H] calcd for C20H14F3N4O4: 431.0967; found: 431.0968.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-(trifluoromethoxy)benzoyl chloride | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethoxy)benzamide | 36 mg, 64% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)OC(F)(F)F)=O)N1 | C20H13F3N4O4
